US06881736B1
b) 2-(4-Methoxyphenyl)-1-[4-(trifluoromethyl)phenyl]ethanone
To a solution of sec-BuLi (1.3 M in THF, 22.6 mL, 29.5 mmole) in dry THF (50 mL) was added 4-bromobenzotrifluoride (3.3 g, 14.7 mmole) in dry THF (20 mL) dropwise at −78° C. After 20 min, N-methoxy-N-methyl-2(4-methoxyphenyl)acetamide (1.5 g, 7.4 mmole) in dry THF (20 mL) was added dropwise. After 1 hr the mixture was quenched with saturated NH4Cl (10 mL), warmed to RT, and extracted with Et2O (3×20 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated. The residue was chromatographed on silica gel (15% EtOAc/hexanes) to give the title compound (2.2 g, 100%) as a slightly-yellow solid: TLC (1.5% EtOAc/hexanes) Rf0.81; 1H NMR (300 MHz, CDCl3) δ 8.10 (d, J=8.2 Hz, 2 H), 7.72 (d, J=8.2 Hz, 2 H), 7.18 (d, J=8.7 Hz, 2 H), 6.88 (d, J=8.7 Hz, 2 H), 4.25 (s, 2 H), 3.79 (s, 3 H).

reactant | sec-BuLi | 29.5 mmole, 1.3 M, 22.6 mL | [Li]C(C)CC
reactant | 4-bromobenzotrifluoride | 14.7 mmole, 3.3 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | N-methoxy-N-methyl-2(4-methoxyphenyl)acetamide | 7.4 mmole, 1.5 g | CON(C(CC1=CC=C(C=C1)OC)=O)C | C11H15NO3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4-Methoxyphenyl)-1-[4-(trifluoromethyl)phenyl]ethanone | 2.2 g, 100% | COC1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)C(F)(F)F | C16H13F3O2
